US07767691B2
Preparation of 4-[cyano(diphenyl)methyl]-1-(phenylmethyl)-1-azoniabicyclo[2.2.1]heptane bromide
To a solution of 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile (0.044 g, 0.152 mmol) in 2CH3CN/3CHCl3 (3.5 mL) was added (bromomethyl)benzene (0.030 mL, 0.252 mmol). The solution was heated to 60° C. for 16 h. The reaction was cooled to room temperature and concentrated under vacuum. The residue was taken up in DMSO and purified by Gilson preparatory HPLC (without TFA) to give the title compound (0.0417 g, 59.6%). EI-MS m/z 451 (M+) Rt (1.20 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile | 0.152 mmol, 0.044 g | N12CCC(CC1)(C2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H20N2
reactant | (bromomethyl)benzene | 0.252 mmol, 0.030 mL | BrCC1=CC=CC=C1 | C7H7Br
product | 4-[cyano(diphenyl)methyl]-1-(phenylmethyl)-1-azoniabicyclo[2.2.1]heptane bromide | 0.0417 g, 59.6% | [Br-].C(#N)C(C12CC[N+](CC1)(C2)CC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C27H27N2.BrH/c28-21-27(24-12-6-2-7-13-24,25-14-8-3-9-15-25)26-16-18-29(22-26,19-17-26)20-23-10-4-1-5-11-23;/h1-15H,16-20,22H2;1H/q+1;/p-1
